US09340538B2
Step B: Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate (5 g, 13.4 mmol) was reacted with NBS (2.87 g, 16.1 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (4.25 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 13.4 mmol, 5 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1C=NC=CC1 | C19H17ClFN3O2
reactant | NBS | 16.1 mmol, 2.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 4.25 g, 70% | BrCC1=C(C(N=C(N1)C=1C=NC=CC1)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C19H16BrClFN3O2
